US03952101
A mixture of 27.2 g. (0.25 mol) of 3-hydroxy-2-methylpyridine, 100 ml. of 10% sodium hydroxide in 75 ml. of water and 22.5 ml. (0.25 mol) of 40% formalin (aqueous methanolic formaldehyde solution) is refluxed for two hours. An additional amount of 40% formalin (22.5 ml.) is added and the reflux is continued for two hours. The mixture is acidified with acetic acid and the resulting precipitate is filtered and washed with acetone. The filtrate is evaporated to dryness and the residue is repeatedly extracted with hot acetone. The extract is dried, treated with charcoal and evaporated to give crude 3-hydroxy-6-hydroxymethyl-2-methylpyridine as a solid.

reactant | 3-hydroxy-2-methylpyridine | 0.25 mol | OC=1C(=NC=CC1)C | C6H7NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
reactant | formalin | 0.25 mol | C=O | CH2O
reactant | formalin | 22.5 ml | C=O | CH2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-hydroxy-6-hydroxymethyl-2-methylpyridine | OC=1C(=NC(=CC1)CO)C | C7H9NO2
